US09447078B2
CH3CN addition to methyl 6-((1-(ethoxycarbonyl)piperidin-4-yl)methoxy)picolinate following the method described in Example 6 gave ethyl 4-(((6-(2-cyanoacetyl)pyridin-2-yl)oxy)methyl)piperidine-1-carboxylate in ethyl acetate solution which was used in the next step without further purification.

reactant | CH3CN | CC#N | C2H3N
reactant | methyl 6-((1-(ethoxycarbonyl)piperidin-4-yl)methoxy)picolinate | C(C)OC(=O)N1CCC(CC1)COC1=CC=CC(=N1)C(=O)OC | C16H22N2O5
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 4-(((6-(2-cyanoacetyl)pyridin-2-yl)oxy)methyl)piperidine-1-carboxylate | C(#N)CC(=O)C1=CC=CC(=N1)OCC1CCN(CC1)C(=O)OCC | C17H21N3O4
